US08580762B2
(1R,2S,3R,5R)-3-(4-amino-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-5-(((3-(2-(5-(tert-butyl)-1H-benzo[d]imidazol-2-yl)ethyl)cyclobutyl)(cyclobutyl)amino)methyl)cyclopentane-1,2-diol
Trifluoroacetic Acid (10 ml, 200 mmol) added to a mixture of Water (1 ml, 80 mmol) and 7-((3aS,4R,6R,6aR)-6-(((3-(2-(5-(tert-butyl)-1H-benzo[d]imidazol-2-yl)ethyl)cyclobutyl)(cyclobutyl)amino)methyl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)-N-(2,4-dimethoxybenzyl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine (0.61 g, 0.80 mmol) at RT. The reaction was stirred o/n at RT and was quenched by the addition of Triethylsilane (0.26 ml, 1.6 mmol). The volatiles were removed in vacuo and resulting and the residue was taken up in MeOH (15 mls),500 mg K2CO3 and 8 drops of water were added and the reaction was stirred at RT for 1 hour. The mixture was filtered and the filter cake was washed with MeOH (10 ml). The filtrate was concentrated and the resulting residue purified by flash chromatography (DCM/7N NH3 in MeOH 90:10) to give the desired product (0.13 g) as a colorless foam. MS (EST+) for C33H45N7O2 m/z 572.2 [M+H]+; MS (ESI−) for C33H45N7O2 m/z 570.2 [M−H]−; HPLC purity >90% (ret. time, 2.850 min.) 1H NMR (400 MHz, d4-MeOH) δH 8.083 (s, 1H), 7.492 (s, 1H), 7.412-7.392 (m, 1H), 7.309-7.286 (m, 1H), 7.220-7.205 (m, 1H), 6.620-6.610 (d, J=4.0 Hz, 1H), 4.321-4.283 (m, 1H), 3.888-3.848 (m, 1H), 3.505-3.417 (m, 0.5H (methine of trans isomer)), 3.231-3.147 (m, 0.5H) (methine of cis isomer)), 3.051-2.953 (m, 1H), 2.871-2.732 (m, 3H), 2.583-2.501 (m, 1H), 2.441-2.368 (m, 1H), 2.244-2.205 (m, 3H), 2.170-1.833 (m, 9H), 1.695-1.560 (m, 4H), 1.384 (s, 9H).

reactant | Trifluoroacetic Acid | 200 mmol, 10 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | Water | 80 mmol, 1 ml | O | H2O
reactant | 7-((3aS,4R,6R,6aR)-6-(((3-(2-(5-(tert-butyl)-1H-benzo[d]imidazol-2-yl)ethyl)cyclobutyl)(cyclobutyl)amino)methyl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)-N-(2,4-dimethoxybenzyl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 0.80 mmol, 0.61 g | C(C)(C)(C)C1=CC2=C(NC(=N2)CCC2CC(C2)N(C2CCC2)C[C@H]2C[C@H]([C@H]3[C@@H]2OC(O3)(C)C)N3C=CC2=C3N=CN=C2NCC2=C(C=C(C=C2)OC)OC)C=C1 | C45H59N7O4
reactant | Triethylsilane | 1.6 mmol, 0.26 ml | C(C)[SiH](CC)CC | C6H16Si
reactant | K2CO3 | 500 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | MeOH | 15 mls | CO | CH4O
catalyst | water | 8 drops | O | H2O
product | (1R,2S,3R,5R)-3-(4-amino-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-5-(((3-(2-(5-(tert-butyl)-1H-benzo[d]imidazol-2-yl)ethyl)cyclobutyl)(cyclobutyl)amino)methyl)cyclopentane-1,2-diol | 0.13 g | NC=1C2=C(N=CN1)N(C=C2)[C@H]2[C@@H]([C@@H]([C@H](C2)CN(C2CCC2)C2CC(C2)CCC2=NC1=C(N2)C=CC(=C1)C(C)(C)C)O)O | C33H45N7O2
